US06258829B1
(3-Carboxy-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl) nitrate
(3-Ethoxycarbonyl-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl) nitrate (1.51 g, 5.12 mmol) was dissolved in methanol (24.0 ml) to which was subsequently added dropwise 10% sodium hydroxide aqueous solution (6.0 ml) at 0° C. After 1.5 hours of stirring at room temperature, the solvent was evaporated and the thus obtained residue was washed with ethyl acetate, adjusted to pH 6 with 2 N hydrochloric acid and then extracted with chloroform:methanol (5:1). The thus obtained organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. By evaporating the solvent under reduced pressure, the title compound (1.07 g, 78.5%) was obtained as pale yellow amorphous.

reactant | (3-Ethoxycarbonyl-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl) nitrate | 5.12 mmol, 1.51 g | [N+](=O)(OC1CCCCC=2C1=NC(=C(C2)C(=O)OCC)C)[O-] | C14H18N2O5
reactant | sodium hydroxide | 6.0 ml | [OH-].[Na+]
solvent | methanol | 24.0 ml | CO | CH4O
product | (3-Carboxy-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl) nitrate | 1.07 g, 78.5% | [N+](=O)(OC1CCCCC=2C1=NC(=C(C2)C(=O)O)C)[O-] | C12H14N2O5
